US05439925
(b) Benzyl hydroxymethylbenzoate
10.3 g (43 mmol) of benzyl 4-formylbenzoate, 50 ml of THF and 50 ml of methyl alcohol are introduced into a round-bottomed flask. While cooling in an icebath, 820 mg (21.5 mmol) of sodium borohydride are added in small portions and the mixture is stirred at room temperature for two hours. The reaction medium is poured into water, the mixture is extracted with ethyl ether and the organic phase is separated after settling has taken place, dried over magnesium sulphate and evaporated. 10.4 g (100%) of the expected product, melting point 55°-56° C., are collected.

reactant | benzyl 4-formylbenzoate | 43 mmol, 10.3 g | C(=O)C1=CC=C(C(=O)OCC2=CC=CC=C2)C=C1 | C15H12O3
reactant | THF | 50 ml | C1CCOC1 | C4H8O
reactant | methyl alcohol | 50 ml | CO | CH4O
reactant | sodium borohydride | 21.5 mmol, 820 mg | [BH4-].[Na+]
solvent | water | O | H2O
product | Benzyl hydroxymethylbenzoate | OCC1=C(C(=O)OCC2=CC=CC=C2)C=CC=C1 | C15H14O3
